US07244843B2
To N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindole (37 mg, 0.11 mmmol) was added concentrated aqueous hydrogen chloride (1 mL). After 15 min, the solution was concentrated, diluted with water, and lyopholized to give (R)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindole bis hydrochloric acid salt (33 mg, 99%) as an off white solid. MS (ESI) 243.3 (M−HCl2).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindole | 37 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(CC3=C(C=CC=C23)C(F)(F)F)CC1 | C17H21F3N2O2
reactant | hydrogen chloride | 1 mL | Cl | ClH
product | (R)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindole bis hydrochloric acid salt | 33 mg, 99% | Cl.Cl.FC(C1=C2CN3[C@H](C2=CC=C1)CNCC3)(F)F | InChI=1S/C12H13F3N2.2ClH/c13-12(14,15)10-3-1-2-8-9(10)7-17-5-4-16-6-11(8)17;;/h1-3,11,16H,4-7H2;2*1H/t11-;;/m0../s1
